US04358457
4.2 g of 4-methyl-thiosemicarbazide and 8.0 g of 1-phenyl-4-chlorobutan-1-one in 200 ml of isopropanol is refluxed for 48 hours. The solvent is then evaporated and the residue is dissolved in methylene chloride. The resulting solution is washed with saturated aqueous sodium bicarbonate and with saturated aqueous sodium chloride and then dried over sodium sulfate. Evaporation of the solvent leaves a brownish oil which crystallizes partially. This is treated with ether to give a light yellow powder which is purified by flash chromatography, using 10% ethyl acetate/methylene chloride as the eluent to give 5,6,7,7a-tetrahydro-1-methyl-7a-phenyl-1H-pyrrolo[1,2-b][1,2,4]triazole-2(3H)-thione as colorless crystals melting at about 148°-151° C.

reactant | 4-methyl-thiosemicarbazide | 4.2 g | CNC(NN)=S | C2H7N3S
reactant | 1-phenyl-4-chlorobutan-1-one | 8.0 g | C1(=CC=CC=C1)C(CCCCl)=O | C10H11ClO
solvent | isopropanol | 200 ml | C(C)(C)O | C3H8O
product | 5,6,7,7a-tetrahydro-1-methyl-7a-phenyl-1H-pyrrolo[1,2-b][1,2,4]triazole-2(3H)-thione | CN1C2(N(NC1=S)CCC2)C2=CC=CC=C2 | C12H15N3S
